US05597918
A mixture of 0.45 g of N-methylformanilide in 0.33 ml of phosphrus oxychloride was stirred at room temperature for an hour and 0.5 g of 2-(4 -chlorophenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one was added thereto. After stirring at room temperature for 2 hours, the mixture was poured into ice-cold water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a silica gel (SiO2 :40 g) column using chloroform as an eluent. The resulting solid was recrystallized from a mixed solvent of chloroform and ethanol to give 0.25 g of 2-(4-chlorophenyl)-9-formyl-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]-cyclohepta[1,2-c]pyridazin-3-one as a pale yellow powder, melting at 170°-172° C.

reactant | N-methylformanilide | 0.45 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | 2-(4 -chlorophenyl)-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 0.5 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCCC1=C2C=CS1 | C17H13ClN2OS
solvent | oxychloride | 0.33 ml | O(Cl)Cl | Cl2O
product | 2-(4-chlorophenyl)-9-formyl-2,5,6,7-tetrahydro-3H-thieno-[2',3':6,7]-cyclohepta[1,2-c]pyridazin-3-one | 0.25 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCCC1=C2C=C(S1)C=O | C18H13ClN2O2S
